US08293744B2
Step 2: Preparation of ethyl 3-(3-chloro-2-thienyl)-2-diazo-3-oxopropanoate:
Ethyl 3-(3-chloro-2-thienyl)-3-oxopropanoate (1.26 g, 5.42 mmol) was dissolved in anhydrous acetonitrile (10 mL), treated with triethylamine (0.63 mL, 6.2 mmol, 1.15 equiv) and cooled to 0° C. To the mixture was added 4-acetamidobenzenesulfonyl azide (1.43 g, 6.0 mmol, 1.1 equiv) and after 10 minutes at 0° C., the mixture was warmed to ambient temperature. To the mixture, additional acetonitrile (20 mL) was added and the mixture was stirred at ambient temperature for an additional 45 minutes. The mixture was treated with sodium hydroxide (10 mL, 1 N aqueous), sodium carbonate (25 mL, aqueous saturated) and water (75 mL) and then extracted with ethyl acetate (2×150 mL). The combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo. The residue was purified by silica gel gradient chromatography (100:0 to 70:30; hexanes:ethyl acetate), providing the titled compound.

reactant | Ethyl 3-(3-chloro-2-thienyl)-3-oxopropanoate | 5.42 mmol, 1.26 g | ClC1=C(SC=C1)C(CC(=O)OCC)=O | C9H9ClO3S
reactant | triethylamine | 6.2 mmol, 0.63 mL, 1.15 equiv | C(C)N(CC)CC | C6H15N
reactant | 4-acetamidobenzenesulfonyl azide | 6.0 mmol, 1.43 g, 1.1 equiv | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-] | C8H8N4O3S
reactant | sodium hydroxide | 1 N, 10 mL | [OH-].[Na+]
reactant | sodium carbonate | 25 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | water | 75 mL | O | H2O
product | ethyl 3-(3-chloro-2-thienyl)-2-diazo-3-oxopropanoate | ClC1=C(SC=C1)C(C(C(=O)OCC)=[N+]=[N-])=O | C9H7ClN2O3S
